US05486593
Synthesis of 5,5-Dimethyl-1,3-dioxan-2-one (Dimethyltrimethylene Carbonate (DMTMC))
The product was a slightly sticky solid due to contamination with small amounts of impurities, such as xylene, diethyl carbonate, the starting diol and the cyclic dimer. It was recrystalllzed as follows. The total crude DMTMC (852 g) was dissolved in 430 mL tetrahydrofuran and 4.3 liters of anhydrous diethyl ether was added cautiously. The liquors were allowed to stand at room temperature for about one-half hour, then placed in a refrigerator at 4° C. overnight. The crystals were collected by filtration, washed with cold ether (1.2 liters), with hexane (1.2 liters), and then by pulling air through the filter cake for about one hour. Final drying was in a vacuum oven at 35°-40° C. (0.1 mm Hg). Total recovery of purified DMTMC was 730 g (70% overall yield).

reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
reactant | diethyl ether | 4.3 liters | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 430 mL | O1CCCC1 | C4H8O
product | 5,5-Dimethyl-1,3-dioxan-2-one | CC1(COC(OC1)=O)C | C6H10O3
